*
* Low-Pass Filter + Limiter
*

* forces current values to be saved
.options savecurrents

******************************************
* input voltage source
vS 1 0 1.42717e+02 sin(0 50 100)
* vS 1 0 0 sin(0 5 400)

Ri 1 2 4k

* positive limiter
Dp1 2 3 Default
Dp2 3 4 Default
Dp3 4 5 Default
Dp8 5 6 Default
Dp9 6 7 Default
Dp10 7 8 Default
Dp11 8 9 Default
Dp12 9 10 Default
Dp13 10 11 Default
Dp14 11 12 Default
Dp15 12 13 Default
Dp16 13 14 Default
Dp17 14 15 Default
Dp18 15 16 Default
Dp19 16 0 Default
*Dp20 20 2 Default
*Dp21 21 22 Default




.model Default D
.op
.end

.control

******************************************
* analise no tempo
tran 1e-4 100e-3
* tran 1e-5 10e-3

plot v(2)

******************************************
*hardcopy solutionteste1.ps v(2)-v(0)
*echo solutionteste1_FIG


.endc